US07671043B2
9A: 4-Isobutylbenzohydrazide
A solution isobutylbenzoic acid (2.00 g, 11.2 mmol) in DMF (10 ml) was treated with HBTU (4.25 g, 11.2 mmol), diisopropylethylamine (7.24 g, 56.0 mmol), then hydrazine (1.80 g, 56.0 mmol) and stirred at room temperature for 12 hours. The reaction was diluted with ethyl acetate (150 mL), washed with 5% NaHCO3 (aq.) and brine, dried (MgSO4), filtered and concentrated in vacuo to give the title compound (2.10 g, 91%) as a white solid.

reactant | isobutylbenzoic acid | 11.2 mmol, 2.00 g | C(C(C)C)C1=C(C(=O)O)C=CC=C1 | C11H14O2
reactant | HBTU | 11.2 mmol, 4.25 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 56.0 mmol, 7.24 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrazine | 56.0 mmol, 1.80 g | NN | H4N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 4-Isobutylbenzohydrazide | 2.10 g, 91% | C(C(C)C)C1=CC=C(C(=O)NN)C=C1 | C11H16N2O
